US04921524
Preparation of 2-butyryl-3-hydroxy-4-phenyl-cyclohex-2-ene-1-one
Zinc chloride (7.1 g) was added to pyridine (50 ml) followed by 4-phenylcyclohexane-1,3-dione (5 g). n-Butyryl chloride (2.6 g) was then added dropwise and the mixture heated to reflux for 4 hours. After cooling, the mixture was poured into 5N hydrochloric acid (200 ml) and the aqueous phase extracted with methylene chloride. The extracts were dried over magnesium sulphate, filtered and evaporated to give a red oil. Purification on a silica gel column using methylene chloride as eluent gave the title compound as an orange oil (2.15 g).

reactant | 4-phenylcyclohexane-1,3-dione | 5 g | C1(=CC=CC=C1)C1C(CC(CC1)=O)=O | C12H12O2
reactant | n-Butyryl chloride | 2.6 g | CCCC(=O)Cl | C4H7ClO
reactant | hydrochloric acid | 5N, 200 ml | Cl | ClH
catalyst | Zinc chloride | 7.1 g | [Cl-].[Zn+2].[Cl-]
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-butyryl-3-hydroxy-4-phenyl-cyclohex-2-ene-1-one | 2.15 g | C(CCC)(=O)C=1C(CCC(C1O)C1=CC=CC=C1)=O | C16H18O3
